US07060844B2
Preparation of 5-[3-(Tetrahydro-pyran-2-yloxy)-prop-1-ynyl]-3H-isobenzofuran-1-one
To a mixture of 5-bromophthalide (2.00 g, 9.39 mmol), tetrahydro-2-(2-propynyloxy)-2H-pyran (5.3 ml, 37.6 mmol), copper(I) iodide (0.645 g, 3.39 mmol), triethylamine (1.90 g, 18.8 mmol) in DMF (20 ml), was added tetrakis(triphenylphosphine)palladium (1.30 g, 1.13 mmol). The mixture was heated at 65° C. under argon for 16 hours, cooled to room temperature and diluted with diethyl ether (250 ml). The filtrate was washed with brine (4×100 ml), dried over anhydrous Na2SO4, and concentrated to give a dark-reddish residue. Purification of the residue mixture by silica gel column chromatography, eluted with a gradient of EtOAc, led to 5-[3-(tetrahydro-pyran-2-yloxy)-prop-1-ynyl]-3H-isobenzofuran-1-one as a white solid (2.23 g, 87%).

reactant | 5-bromophthalide | 9.39 mmol, 2.00 g | BrC=1C=C2COC(=O)C2=CC1 | C8H5BrO2
reactant | tetrahydro-2-(2-propynyloxy)-2H-pyran | 37.6 mmol, 5.3 ml | C(C#C)OC1OCCCC1 | C8H12O2
reactant | triethylamine | 18.8 mmol, 1.90 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
catalyst | copper(I) iodide | 3.39 mmol, 0.645 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 1.13 mmol, 1.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[3-(Tetrahydro-pyran-2-yloxy)-prop-1-ynyl]-3H-isobenzofuran-1-one | O1C(CCCC1)OCC#CC=1C=C2COC(C2=CC1)=O | C16H16O4
